US04267189
A solution of 1,3-dihydro-3-oxo-2H-isoindole-1-acetic acid (described by F. M. Rowe et al., J. Chem. Soc., 1098 (1936) 130 g, 0.682 mol) in methanol (1300 ml) containing 6.5 g of p-toluenesulfonic acid was refluxed with stirring for 3.5 hr. Most of the methanol was evaporated and the residue was dissolved in chloroform. The solution was washed with 5% aqueous sodium bicarbonate and water, dried and evaporated. The residue (125 g) was crystallized from isopropanol to give methyl 1,3-dihydro-3-oxo-2H-isoindole-1-acetate, mp 136°-138° C.

reactant | 1,3-dihydro-3-oxo-2H-isoindole-1-acetic acid | 0.682 mol, 130 g | O=C1NC(C2=CC=CC=C12)CC(=O)O | C10H9NO3
reactant | p-toluenesulfonic acid | 6.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 1300 ml | CO | CH4O
product | methyl 1,3-dihydro-3-oxo-2H-isoindole-1-acetate | O=C1NC(C2=CC=CC=C12)CC(=O)OC | C11H11NO3
